Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
___
 
Attending: ___
 
Chief Complaint:
unsteady gait
 
Major Surgical or Invasive Procedure:
Craniotomy for resection of R cerebellar lesion

 
History of Present Illness:
The patient is a ___ year old woman with HTN sent by her PCP for 
evaluation of a headache. She has had an intermittent HA for 8 
days, progressing during days ___ and plateauing at peak 
intensity during days ___, though she felt improved at that 
time. She had associated nausea without vomiting, and also a 
"feeling of being drunk" whenever she tried to walk without 
apparent discoordination. She has had no other constituional or 
infectious symptoms. Her PCP reported to the ED that she had 
dysmetria and a present Romberg sign. The ED ordered an NC Head
CT with a noted right cerebellar lesion of unknown etiology with 
mass effect but without evidence of herniation or hemorrhage and 
thus consulted our team for further evaluation.

 
Past Medical History:
PMH/PSH: HTN, HL, pelvic fracture

 
Social History:
___
Family History:
sister died at age ___ from Lung CA
 
Physical Exam:
ON ADMISSION:
- Mental Status - Awake, alert, oriented x 3. Recalls a coherent
history. 
Registration ___ and recall ___. Concentration maintained when
recalling months backwards. Follows two step commands, midline
and appendicular. Language fluent with intact repetition and
verbal comprehension. Normal prosody. No paraphasic errors. High
and low frequency naming intact. No dysarthria. No apraxia or
neglect.

- Cranial Nerves - [II] PERRL 3->2 brisk. VF full to number
counting.
[III, IV, VI] EOMI, no nystagmus. [V] V1-V3 without deficits to
light touch bilaterally. 
[VII] No facial asymmetry. [VIII] Hearing intact to finger rub
bilaterally. 
[IX, X] Palate elevation symmetric. [XI] SCM/Trapezius strength
___ bilaterally. [XII] Tongue midline.

- Motor - Normal bulk and tone. No pronation, no drift. No 
tremor
or asterixis.
=[Delt] [Bic] [Tri] [ExD] [IO] [IP] [Quad] [Ham] [TA] [Gas] 
[___]
L  5      5     5     5     5    5    5      5     5    5     5
R  5      5     5     5     5    5    5      5     5    5     5

- Sensory - No deficits to light touch bilaterally.

- Reflexes
=[Bic] [Tri] [___] [Quad] [Gastroc]
L 2      2      2      2        2
R 2      2      2      2        2
Plantar response flexor bilaterally.

- Coordination - Normal FTN. No dysmetria with finger/foot
mirrored movements. +Mild slowing with rapid alternating
movements.

- Gait - Normal initiation. Narrow base. Normal stride length 
and
arm swing. Stable without sway. Mild sway, more to R than L, on
Romberg testing but no fall.

At discharge:
pleasant, NAD, AAO x3, PERRL, EOM intact, face symmetric, right 
dysmetria.  Incision c/d/i with staples.  Motor full, sensory 
intact. 
 
Pertinent Results:
___ CT head without contrast:
1. Hypoattenuating mass lesion in the right cerebellum with 
surrounding 
vasogenic edema and local mass effect. Findings concerning for 
primary 
neoplasm or metastatic disease. Further characterization with 
MRI is 
recommended. 
2. No intracranial hemorrhage. 

___ MR head with and without contrast:
3 x 3 x 2.7 cm ring enhancing hematoma in the right cerebellar 
hemisphere with associated vasogenic edema and mild mass effect 
over the 4 ventricle, pons and remaining cerebellum. 
Differential diagnosis includes a hemorrhagic neoplasm, such as 
a metastasis, or a subacute hematoma with the wall enhancement 
reflecting the wall of the hematoma itself, rather than tumor.  

___ CT chest, abdomen and pelvis, with contrast:
1. 3.9 cm cavitary mass demonstrated within the superior segment 
of the right lower lobe with an immediately adjacent satellite 4 
mm pulmonary nodule and adjacent reactive parenchymal 
opacification that in setting of the cerebellar lesion likely 
represents the primary malignancy. 
2. Multiple subcentimeter hepatic hypodensities and a left renal 
hypodensity, too small to characterize, with metastases not 
excluded from the differential 

MRI Head with and without contrast
 Postoperative changes seen in the right cerebellar hemisphere 
with occipital craniotomy defect, subdural fluid along posterior 
aspect of 
clivus and right occipital region and bifrontal pneumocephalus 

 
Brief Hospital Course:
Ms. ___ was admitted to the neurosurgical ICU on ___. She 
underwent a brain MRI with and without contrast that revealed a 
3 x 3 x 2.7 cm ring enhancing lesion in the R cerebellum. She 
underwent a CT of chest, abdomen and pelvis to identify any 
potential primary neoplasm, which revealed right lung lesion. On 
___ she had emesis and a vasovagal episode. She also had some 
Afib overnight and this resolved with some Lopressor. She was 
seen by Dr. ___ neuro oncology who felt that this was most 
likely a metastatic lung lesion which should be surgically 
resected. This was discussed with the patient and surgery was 
planned for ___. 

On ___ she underwent the above stated procedure.  Please 
review dictated operative report for details.  Patient was 
extubated without incident and transferred to PACU then ICU in 
stable condition.  Post op MRI demonstrated complete gross 
resection. On ___, she was transferred to floor.
 
Now DOD, patient is afebrile, VSS, and neurologically stable.  
Patient's pain is well-controlled and the patient is tolerating 
a good oral diet.  Pt's incision is clean, dry and inctact 
without evidence of infection.  She is set for discharge home in 
stable condition and will follow-up accordingly. 
 
Medications on Admission:
Simvastatin 40 mg PO daily
HCTZ 25 mg PO daily
 
Discharge Medications:
1. simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.  
3. famotidine 20 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
4. cyclobenzaprine 10 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day) as needed for neck pain.
Disp:*40 Tablet(s)* Refills:*0*
5. hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for pain.
Disp:*90 Tablet(s)* Refills:*0*
6. hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
7. dexamethasone 2 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).
Disp:*60 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
R cerebellar lesion; final pathologic diagnosis pending
Right Lung Lesion

 
Discharge Condition:
AOx3. Activity as tolerated. Keep dressing clean and dry. 

 
Discharge Instructions:
•Have a friend/family member check your incision daily for 
signs of infection.
•Take your pain medicine as prescribed.
•Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
•You may wash your hair only after sutures and/or staples have 
been removed. If your wound closure uses dissolvable sutures, 
you must keep that area dry for 10 days. 
•You may shower before this time using a shower cap to cover 
your head.
•Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
•Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, and 
Ibuprofen etc. 
•If you were on a medication such as Coumadin (Warfarin), or 
Plavix (clopidogrel), or Aspirin, prior to your injury, you may 
safely resume taking this only after clearance from your 
Neurosurgeon.
•Clearance to drive and return to work will be addressed at 
your post-operative office visit.
•Make sure to continue to use your incentive spirometer while 
at home, unless you have been instructed not to. 

 
Followup Instructions:
___